US04902698
(b) 4-(5-Benzenesulphonamido-3-methylpyrid-2-yl)butanoic acid
A solution of 5-benzenesulphonamido-2-(3-cyanopropyl)-3-methylpyridine (1.5 g) in ethanol (100 ml) and 15% w/v sodium hydroxide solution (20 ml) was refluxed for 8 hours. The ethanol was removed under reduced pressure and the pH of the remaining aqueous was adjusted to pH 4 when a white solid crystallised. The solid was collected and recrystallised from methanol to give the title compound (0.7 g) as white needles. m.p. 169°-179° C.

reactant | 5-benzenesulphonamido-2-(3-cyanopropyl)-3-methylpyridine | 1.5 g | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C(C(=NC1)CCCC#N)C | C16H17N3O2S
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 4-(5-Benzenesulphonamido-3-methylpyrid-2-yl)butanoic acid | 0.7 g | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C(C(=NC1)CCCC(=O)O)C | C16H18N2O4S
